US08283354B2
2-(4-Chloro-7-methylquinazolin-2-yl)phenol (1.5 g, 5.54 mmol) was suspended in anhydrous CH2Cl2 (15 mL) and cooled to 0° C. under an N2 atmosphere. A mixture of benzyl (piperidin-3-yl)methylcarbamate hydrochloride (1.73 g, 6.09 mmol) in CH2Cl2 (20 mL), and triethylamine (23 mL, 16.67 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature, and the reaction was complete after one hour. It was then partitioned between CH2Cl2/H2O, and separated, and the organic phase was dried over Na2SO4, filtered, and concentrated to an orange solid. Purification by silica gel chromatography using 98% CH2Cl2/2% EtOAc gave benzyl(1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate as a bright yellow solid (1.75 g, 66%). LC/MS: m/z 483.5 (M+H)+ at 2.81 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-Chloro-7-methylquinazolin-2-yl)phenol | 5.54 mmol, 1.5 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | benzyl (piperidin-3-yl)methylcarbamate hydrochloride | 6.09 mmol, 1.73 g | Cl.N1CC(CCC1)CNC(OCC1=CC=CC=C1)=O
reactant | triethylamine | 16.67 mmol, 23 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl(1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 1.75 g, 66% | C(C1=CC=CC=C1)OC(NCC1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C29H30N4O3
